Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
morphine / Lipitor
 
Attending: ___.
 
Chief Complaint:
respiratory distress
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old  with a past medical history of CHF, CAD, AFib on 
lovenox, right colectomy ___, s/p end ileostomy take down on 
___ complicated by enterocutaneous fistula formation, multiple 
pelvic fluid collection s/p ___ drainage. He was seen in clinic 
earlier today where he was noted to be in respiratory distress.  
He was given 2 U PRBC over the weekend for anemia followed by a 
CHF exacerbation requiring IV lasix at his rehab facility.  He 
improved but did not completely wean off O2. He denies any chest 
pain or shortness of breath. He was also confused and oriented 
x1 in clinic.

 
Past Medical History:
PMH: CAD, CHF, afib on lovenox, HL, HTN
PSH: appy, GB, R colectomy with colostomy, takedown 

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals: 98.1 64 110/54 18 94% 2L 
Gen: No acute respiratory. A&O to self and year. 
CV: Regular rate
Lungs: Clear to ausculation bilaterally
Abd: Soft. Non-distended. Non-tender to palpation. Midline 
abdominal
wound with healthy granulation tissue. Minimal bilious output 
from
drains.
Ext: 1+ edema b/l

 
Pertinent Results:
___ 06:15AM BLOOD WBC-6.3 RBC-3.14* Hgb-9.7* Hct-31.5* 
MCV-100* MCH-31.0 MCHC-30.9* RDW-17.3* Plt ___
___ 05:50AM BLOOD WBC-6.2 RBC-3.51* Hgb-10.6* Hct-34.7* 
MCV-99* MCH-30.1 MCHC-30.4* RDW-16.9* Plt ___
___ 05:55AM BLOOD WBC-7.1 RBC-3.39* Hgb-10.3* Hct-32.7* 
MCV-97 MCH-30.4 MCHC-31.5 RDW-16.9* Plt ___
___ 06:20AM BLOOD WBC-7.7 RBC-3.55* Hgb-11.0* Hct-34.7* 
MCV-98 MCH-30.8 MCHC-31.5 RDW-16.8* Plt ___
___ 12:07PM BLOOD WBC-7.4 RBC-3.64* Hgb-11.0* Hct-35.5* 
MCV-98 MCH-30.3 MCHC-31.1 RDW-16.5* Plt ___
___ 05:26AM BLOOD WBC-6.4 RBC-3.31* Hgb-10.3* Hct-31.8* 
MCV-96 MCH-31.0 MCHC-32.3 RDW-16.5* Plt ___
___ 05:15PM BLOOD WBC-9.8 RBC-3.44* Hgb-10.6* Hct-33.4* 
MCV-97 MCH-30.8 MCHC-31.8 RDW-16.4* Plt ___
___ 05:15PM BLOOD Neuts-79.6* Lymphs-11.6* Monos-6.9 
Eos-1.6 Baso-0.3
___ 06:15AM BLOOD Plt ___
___ 05:50AM BLOOD Plt ___
___ 05:55AM BLOOD Plt ___
___ 06:20AM BLOOD Plt ___
___ 12:07PM BLOOD Plt ___
___ 05:26AM BLOOD Plt ___
___ 05:15PM BLOOD Plt ___
___ 11:20AM BLOOD Glucose-114* UreaN-21* Creat-1.0 Na-138 
K-4.1 Cl-101 HCO3-29 AnGap-12
___ 07:10AM BLOOD Glucose-100 UreaN-24* Creat-1.0 Na-142 
K-4.4 Cl-105 HCO3-29 AnGap-12
___ 12:40PM BLOOD Glucose-99 UreaN-25* Creat-1.0 Na-145 
K-3.9 Cl-107 HCO3-30 AnGap-12
___ 05:00PM BLOOD Glucose-98 UreaN-25* Creat-1.1 Na-148* 
K-3.9 Cl-112* HCO3-29 AnGap-11
___ 06:10AM BLOOD Glucose-110* UreaN-25* Creat-1.0 Na-152* 
K-4.4 Cl-116* HCO3-28 AnGap-12
___ 09:46PM BLOOD Glucose-108* UreaN-25* Creat-1.0 Na-152* 
K-4.2 Cl-118* HCO3-28 AnGap-10
___ 06:15AM BLOOD Glucose-122* UreaN-25* Creat-1.1 Na-154* 
K-3.8 Cl-119* HCO3-27 AnGap-12
___ 05:50AM BLOOD Glucose-121* UreaN-25* Creat-1.1 Na-149* 
K-3.9 Cl-116* HCO3-25 AnGap-12
___ 05:55AM BLOOD Glucose-101* UreaN-25* Creat-1.1 Na-149* 
K-3.7 Cl-115* HCO3-27 AnGap-11
___ 06:20AM BLOOD Glucose-137* UreaN-25* Creat-1.0 Na-146* 
K-3.4 Cl-112* HCO3-27 AnGap-10
___ 06:20AM BLOOD Glucose-93 UreaN-23* Creat-1.0 Na-150* 
K-3.7 Cl-115* HCO3-26 AnGap-13
___ 12:07PM BLOOD Glucose-141* UreaN-27* Creat-1.1 Na-153* 
K-3.1* Cl-112* HCO3-30 AnGap-14
___ 05:26AM BLOOD Glucose-80 UreaN-25* Creat-1.0 Na-150* 
K-3.3 Cl-110* HCO3-29 AnGap-14
___ 05:26AM BLOOD Glucose-80 UreaN-25* Creat-1.0 Na-150* 
K-3.3 Cl-110* HCO3-29 AnGap-14
___ 05:15PM BLOOD Glucose-109* UreaN-32* Creat-0.9 Na-146* 
K-4.7 Cl-106 HCO3-30 AnGap-15
___ 05:55AM BLOOD ALT-9 AST-15 AlkPhos-86 TotBili-0.4
___ 05:15PM BLOOD ALT-13 AST-37 AlkPhos-118 TotBili-0.5
___ 06:20AM BLOOD ___ 01:20AM BLOOD cTropnT-0.04*
___ 05:15PM BLOOD cTropnT-0.04*
___ 11:20AM BLOOD Calcium-8.6 Phos-3.0 Mg-1.8
___ 07:10AM BLOOD Calcium-8.5 Phos-3.2 Mg-2.2
___ 12:40PM BLOOD Calcium-8.7 Phos-3.0 Mg-1.6
___ 06:10AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.8
___ 05:50AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.8
___ 05:55AM BLOOD Albumin-2.6* Calcium-8.7 Phos-2.8 Mg-1.8
___ 06:20AM BLOOD Calcium-8.7 Phos-2.8 Mg-2.1
___ 12:07PM BLOOD Calcium-8.9 Phos-2.2* Mg-1.8
___ 05:26AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.9
___ 05:15PM BLOOD Albumin-2.9*
___ 03:15PM BLOOD VitB12-324 Folate-16.0
___ 03:15PM BLOOD TSH-3.1

EXAMINATION:  BILAT LOWER EXT VEINS 
  
INDICATION:  ___ year old man with b/l lower extremity swelling, 
h/o Afib and 
resp distress  // Please rule out DVT 
  
TECHNIQUE:  Grey scale, color, and spectral Doppler evaluation 
was performed 
on the bilateral lower extremity veins. 
  
COMPARISON:  Bilateral lower extremity vein US ___ 
  
FINDINGS:  
  
There is normal compressibility, flow and augmentation of the 
bilateral common 
femoral, superficial femoral, and popliteal veins. Normal color 
flow and 
compressibility are demonstrated in the posterior tibial and 
peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
No evidence of medial popliteal fossa (___) cyst. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the bilateral lower 
extremity veins. 
  
The study and the report were reviewed by the staff radiologist. 

  
EXAMINATION:  CT HEAD W/O CONTRAST 
  
INDICATION:  ___ with history of CHF, CAD, AFib on Coumadin, R 
colectomy 
(___) an s/p end ileostomy take down (___) c/b EC fistula, 
multiple pelvic 
fluid collection s/p ___ drainage now presents with respiratory 
distress  and 
altered mental status. 
  
TECHNIQUE:  Contiguous axial MDCT images were obtained through 
the brain 
without the administration of IV contrast.  Reformatted coronal, 
sagittal and 
thin section bone algorithm-reconstructed images were then 
generated. 
  
DOSE:  CTDIvol: ___ MGy 
DLP: 915 mGy-cm 
  
COMPARISON:  Noncontrast head CT from ___. 
  
FINDINGS:  
  
There is no evidence of acute intracranial hemorrhage, edema, 
mass effect, or 
large territorial infarction. 
  
Age-related cerebral atrophy is again seen. There is 
extensivesubcortical, 
deep, and periventricular white matter hypodensities, which are 
most likely 
sequela of chronic small vessel ischemic disease.  Chronic 
lacunar infarcts 
are seen in bilateral basal ganglia. 
  
The basal cisterns appear patent and there is preservation of 
gray-white 
matter differentiation. 
  
The visualized bony structures are grossly unremarkable. 
  
A mucous retention cyst is seen in the right maxillary sinus. 
The other 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  The 
globes are unremarkable. 
  
IMPRESSION:  
  
No acute hemorrhage, mass effect, or large territorial 
infarction.  If 
continued clinical concern, MRI is recommended for further 
evaluation of acute 
infarct. 
  
The study and the report were reviewed by the staff radiologist. 


INDICATION:  Atrial fibrillation on coumadin status post right 
colectomy in 
___ and recent end ileostomy takedown complicated by an 
enterocutaneous 
fistula and multiple pelvic fluid collections. Patient now 
presents 
respiratory distress. Evaluate for leak and or strictures. 
  
TECHNIQUE:  MDCT axial images were acquired through the abdomen 
and pelvis 
without the administration of intravenous contrast. Coronal and 
sagittal 
reformations were provided and reviewed. Gastrografin as oral 
contrast was 
administered.  Images through the pelvis were repeated 2 
additional times to 
allow contrast to pass through the anastomosis. 
  
DOSE:  DLP: 2310.89 mGy-cm 
  
COMPARISON:  Chest CTA ___bdomen and 
pelvis ___. 
  
FINDINGS:  
  
Small bilateral pleural effusions are smaller from 4 days prior. 
 There is 
persistent overlying atelectasis. The included portion the heart 
is mildly 
enlarged and shows no pericardial effusion. Focal coronary 
artery 
calcifications and aortic valve calcifications are mild. 
  
Evaluation of the intra-abdominal organs is limited by the lack 
of intravenous 
contrast. Within this limitation, the liver, spleen, pancreas 
and adrenal 
glands are unremarkable.  The gallbladder surgically absent. The 
kidneys show 
no hydronephrosis or nephrolithiasis.  A hypodensity in the 
posterior left 
kidney is incompletely evaluated but appears unchanged from ___ and 
is presumably a simple cyst.  The aorta is normal caliber. 
  
An NG tube terminates in the fundus of the stomach. With repeat 
imaging, oral 
contrast progresses distal to the ileocolonic anastomosis.  
There is no 
extraluminal contrast to indicate a leak.  There may be a small 
enteroenteric 
fistula (04:59).  A pigtail catheter is seen within an anterior 
abdominal 
fluid collection which now measures 5.3 x 3.7 x 1.8 cm, 
unchanged from ___.  The catheter appears separate from the bulk of 
the remaining 
collection.  There has been near resolution of the pelvic fluid 
collection 
with the pigtail drain remaining in situ.  Smaller abdominal 
fluid collections 
persist but are unchanged (i.e. 2:60). There is no evidence of 
an EC fistula.  
There is a large ventral hernia with loops of nonobstructed 
bowel. A small 
amount of abdominal free fluid is present but unchanged in 
volume. 
  
The bladder is collapsed. This Foley balloon appears to be 
inflated within the 
prostate and should be repositioned. There is a small, air 
filled bladder 
diverticulum (2:71). The rectum is unremarkable. There is no 
free pelvic 
fluid. There is no inguinal lymphadenopathy. 
  
There are no lytic or blastic osseous lesions in the abdomen or 
pelvis.  
Severe to moderate degenerative changes of the lower lumbar 
spine are again 
noted.  The bones are demineralized. 
  
IMPRESSION:  
  
1. Unchanged size of the anterior abdominal fluid collection 
from ___ with a pigtail catheter slightly removed from the bulk of 
the remaining 
fluid. 
2.  Near resolution of the pelvic fluid collection, this 
catheter can likely 
be removed. 
3. No evidence of leak or EC fistula. 
4. Decrease in size of bilateral pleural effusions from 4 days 
prior, now 
small. 
5. Foley catheter balloon appears to be inflated within the 
prostate and 
should be repositioned. 
  
The study and the report were reviewed by the staff radiologist. 

  

 
Brief Hospital Course:
The patient presented to the clinic on ___ and was noted to 
be in respiratory distress. and admitted to the ED for further 
management, then transferred to the ward for observation. 
Neuro: The patient throughout his course remained confused. A 
___ obtained ___ showed evidence of diffuse atrophy, diffuse 
white matter small vessel disease and bilateral chronic lacunar 
infarcts. His exam was notable for disorientation and 
inattention. Also noted is L>R weakness and a slight flattening 
of the left nasal labial fold. Per neurology, given the lacunar 
infarcts seen on ___ and prior MRI, it is likely that the 
deficits found are related to a prior stroke(s) and may be more 
apparent with recrudencence in the setting of his acute illness. 
The strokes would not be expected to cause any change in mental 
status. However the patient's diffuse white matter disease and 
atrophy indicate a poor substrate and a predisposition to 
delirium in the setting of infection and/or other toxic 
metabolic insults, which appears to be the most likely cause of 
his current state. Further recommendations are no acute 
indication for further imaging of the brain as his current 
deficits can be correlated with prior strokes seen on CT. In 
addition, avoiding sedating, mind altering medications and 
disruptions of sleep wake cycle
CV: The patient has a history of atrial fibrillation currently 
managed with lovenox ginve his previous upper GI bleeding on 
POD3 after his colostom take down. During his current hospital 
course he presented with asymptomatic nonsustained ventricular 
tachycardia. He was managed with beta blockade (metoprolol 5mg 
IVq6h and switched to metoprolol 12.5 mg q8h) after the 
cardiology service was consulted. Per cardiology, the meotprolol 
dose needs to be tritated up to achieve a HR goal of 60-80. 
Then, the metoprolol can be converted to long acting. Patient 
will be seen by Dr. ___ on ___ at ___.
Pulmonary: The patient remained stable from a pulmonary 
standpoint. He was started on diuresis with lasix 40 mg IV daily 
and wean off to 20 mg IV daily. Currently, he has been switched 
to torsemide 10 mg PO daily.  
GI/GU/FEN: The patient was initially kept NPO and Promote w/ 
Fiber @ 80 mL/hr
___ kcals, 119g protein). He was evaluated by speech therapy 
at the bed side and reassessed with a video swallow on  ___ which demonstrated no perforations. He was initiated on a 
puree thin liquid diet, which was well tolerated. In addition, 
on ___ he started complaining of liquid stools. A new 
C. diff test was sent off which was negative. Banana flakes were 
added as a nutrition supplementation following the nutritionist 
recommendations. Please monitor daily lytes, to mantain a K>4.0 
and Mg>2.0.
ID: The patient's fever curves were closely watched for signs of 
infection. The patient presented with an acute urinary tract 
infection which is being treated with Linezolid (___). 
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. He underwnt a bilateral 
doppler to rule out a clot, which there were none. In addition, 
he was kept on lovenox 80mg BID during the hospital course and 
plan is to bridge back to his home dose of coumadin. INR must be 
watch daily and lovenox needs to be discontinued once INR is 
therapuetic.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
Lopressor IV 5q6, Vasotec IV 1.25q6, lovenox SQ 40'',
protonix IV 40'', lasix IV 20', flagyl IV 500'''

 
Discharge Medications:
1. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
2. Linezolid ___ mg IV Q12H UTI 
3. Lisinopril 5 mg PO DAILY 
4. Metoprolol Tartrate 12.5 mg PO TID 
5. Pantoprazole 40 mg PO Q12H 
6. Rosuvastatin Calcium 40 mg PO DAILY 
7. Torsemide 10 mg PO DAILY 
8. Enoxaparin Sodium 80 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Lovenox to coumading bridge. DC once INR is therapeutic 
9. Warfarin 4 mg PO DAILY16 
Patient in lovenox to coumadin bridge. Please check INR daily 
and DC lovenox once INR is therapeutic 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. respiratory distress now resolved
2. non sustained ventricular tachycardia now resolved
3. status post end ileostomy take down (___) complicated by 
upper gastrointestinal bleeding, enterocutaneous fistula & 
multiple pelvic fluid collection status post ___ drainage

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Please ___ your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. ___ or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please ___ your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain. ___ 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently. Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

General Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain. ___ 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently. Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

PICC Line:
*Please monitor the site regularly, and ___ your MD, nurse 
practitioner, or ___ Nurse if you notice redness, swelling, 
tenderness or pain, drainage or bleeding at the insertion site.
* ___ your MD or proceed to the Emergency Room immediately if 
the PICC Line tubing becomes damaged or punctured, or if the 
line is pulled out partially or completely. 
DO NOT USE THE PICC LINE IN THESE CIRCUMSTANCES.  Please keep 
the dressing clean and dry. Contact your ___ Nurse if the 
dressing comes undone or is significantly soiled for further 
instructions.

 
Followup Instructions:
___